US08021574B2
Synthesis of 2-(3-bromophenyl)naphthalene
Under an argon gas atmosphere, 243 g (1.41 mol) of 2-naphthalene boronic acid, 400 g (1.41 mol) of 3-bromoiodobenzene, 3.27 g (28.2 mmol) of tetrakis(triphenylphosphine)palladium(0), 6.4 L of toluene and 3.2 L of 2M sodium carbonate solution were mixed, and stirred for 24 hours while being refluxed. After the reaction in the mixture was over, the mixture experienced filtration, through which aqueous phase thereof was eliminated. After organic phase thereof was cleansed by water and dried with magnesium sulfate, toluene was distilled away under reduced pressure. Residue thereof was refined by silica-gel column chromatography, such that 303 g of 2(3-bromophenyl)naphthalene was obtained with an yield of 76%.

reactant | 2-naphthalene boronic acid | 1.41 mol, 243 g | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | 3-bromoiodobenzene | 1.41 mol, 400 g | BrC=1C=C(C=CC1)I | C6H4BrI
reactant | sodium carbonate | 2M, 3.2 L | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 28.2 mmol, 3.27 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 6.4 L | C1(=CC=CC=C1)C | C7H8
product | 2-(3-bromophenyl)naphthalene | yield of 76% | BrC=1C=C(C=CC1)C1=CC2=CC=CC=C2C=C1 | C16H11Br
